US04985419
A mixture of 7-chloro-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbonitrile (55.1 g) and triethylamine (10.4 cc) in anhydrous pyridine (350 cc) is saturated by bubbling hydrogen sulphide in for 5 hours at 25° C. The clear solution obtained is kept stirred for 12 hours at 25° C., and the mixture is then outgassed by bubbling nitrogen through for 90 minutes. The reaction mixture is then diluted with ethyl acetate (1000 cc) and washed with distilled water (5×1000 cc). The organic phase is dried over magnesium sulphate and filtered, and the filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa). The residue is purified by chromatography on a column of 0.02-0.6 mm silica gel (height: 31 cm; diameter: 7.5 cm), eluting with an 80:20 (by volume) mixture (30 liters) of cyclohexane and ethyl acetate and collecting 1000 cc-fractions. Fractions 22 to 38 are combined and concentrated under reduced pressure (30 mm Hg; 4 kPa) to give an oil containing the expected product. The oil obtained is purified by chromatography on a column of 0.04-0.06 mm silica gel with a slight excess pressure of nitrogen (40 kPa) (height: 30 cm; diameter: 4.5 cm), eluting with pure ethyl acetate (1.5 liters) and collecting 100-cc fractions. Fractions 8 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) to give 7-chloro-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarbothioamide (1.7 g). An autoclave is charged with (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propyl methanesulphonate (36 g) and ethylamine (200 cc). The mixture is brought to 100° C. for 17 hours. After cooling, the reaction mixture is poured into water (1 liter). The solution is extracted with ethyl acetate (500 cc) and the organic phase is washed with distilled water (2×500 cc). After settling has taken place, the organic phase is dried over magnesium sulphate, filtered and concentrated to dryness at 40° C. to give a brown gum, which is purified by chromatography on a column (height: 50 cm; diameter: 6 cm) of silica (0.06-0.3 mm), eluting with pure ethyl acetate (8 liters) and then with a mixture of ethyl acetate and methanol (97:3 by volume mixture of ethyl acetate and triethylamine) (2 liters) and finally with a mixture (10:90 by volume) (2 liters) of diethylamine and methanol and collecting 500-cc fractions. The fractions 32 to 37 are combined and concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give 7-chloro-10-[ (2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile (20 g) in the form of a brown product of meringue-like consistency.

reactant | (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propyl methanesulphonate | 36 g | CS(=O)(=O)OCC(C)N1C2=CC=C(C=C2SC=2C=CC(=CC12)C#N)Cl | C17H15ClN2O3S2
reactant | ethylamine | 200 cc | C(C)N | C2H7N
solvent | water | 1 liter | O | H2O
product | 7-chloro-10-[ (2RS)-1-ethylamino-2-propyl]-2-phenothiazinecarbonitrile | 20 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CNCC)C)C#N | C18H18ClN3S
